US05559230
To 3-amino-1-[4-(3,5-dichlorobenzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline (0.5 g) are added methanol (10 ml), 37% formaline (0.8 ml) and sodium cyanoborohydride (0.16 g). To the mixture is added acetic acid (0.5 ml) under ice-cooling and the mixture is stirred at room temperature for 1 hour. Water is added to the reaction mixture and the mixture is basified with potassium carbonate and extracted with dichloromethane. The solvent is concentrated and the resulting residue is purified by silica gel column chromatography (eluent; dichloromethane→dichloromethane: methanol=20:1) to give 3-dimethylamino-1-[4-(3,5-dichlorobenzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline (0.3 g) as colorless amorphous.

reactant | 3-amino-1-[4-(3,5-dichlorobenzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline | 0.5 g | NC1CN(C2=CC=CC=C2C1)C(C1=CC=C(C=C1)NC(C1=CC(=CC(=C1)Cl)Cl)=O)=O | C23H19Cl2N3O2
reactant | formaline | 0.8 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 0.16 g | C(#N)[BH3-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | Water | O | H2O
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 10 ml | CO | CH4O
product | 3-dimethylamino-1-[4-(3,5-dichlorobenzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline | 0.3 g | CN(C1CN(C2=CC=CC=C2C1)C(C1=CC=C(C=C1)NC(C1=CC(=CC(=C1)Cl)Cl)=O)=O)C | C25H23Cl2N3O2
